US07524841B2
After dissolving chlorosulfonyl isocyanate (3.29 mL, 37.8 mmol) in nitroethane (45 mL), the mixture was cooled to −80° C. A solution of 4-fluoroaniline (3.50 g, 31.5 mmol) in nitromethane (5 mL) was then added dropwise thereto over a period of 10 minutes. The reaction mixture was raised to 0° C., and aluminum chloride (5.33 g, 40.0 mmol) was added. After heating to reflux for 30 minutes, the reaction mixture was cooled to room temperature and poured into ice water (120 mL). The precipitated crystals were filtered out and dried to obtain 7-fluoro-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione.

reactant | chlorosulfonyl isocyanate | 37.8 mmol, 3.29 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 4-fluoroaniline | 31.5 mmol, 3.50 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | aluminum chloride | 40.0 mmol, 5.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitroethane | 45 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | nitromethane | 5 mL | [N+](=O)([O-])C | CH3NO2
product | 7-fluoro-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione | FC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C7H5FN2O3S
